US07008962B2
3-(2-chloro-3-methylanilino)-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione
To a solution of 3-ethoxy-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione (50 mg, 0.21 mmol) in DMSO (1.5 mL) was added 2-chloro-3-methylaniline (0.026 mL, 0.21 mmol) and reaction was stirred at 110° C. overnight. Reaction was purified on HPLC (acetonitrile:water) and product was concentrated down. Solid was dried in vacuo. LC-MS (m/z) 329 (M+).

reactant | 3-ethoxy-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione | 0.21 mmol, 50 mg | C(C)OC=1C(C(C1NC1=C(C=CC=C1)O)=O)=O | C12H11NO4
reactant | 2-chloro-3-methylaniline | 0.21 mmol, 0.026 mL | ClC1=C(N)C=CC=C1C | C7H8ClN
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 3-(2-chloro-3-methylanilino)-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione | ClC1=C(NC=2C(C(C2NC2=C(C=CC=C2)O)=O)=O)C=CC=C1C | C17H13ClN2O3
